US05072027
In the same reactor as used in Example 1, 760 kg (5 kmoles) of tricyclo[5.2.1.02,6 ]deca-8-yl alcohol and 1500 kg (15 kmole) of methyl methacrylate were placed and well mixed with stirring. The water content of the resulting mixture was 2500 ppm. To the mixture, 550 g of hydroquinone monomethyl ether was added and heated while introducing thereinto dried air at a rate of 4 m3/ hr and reluxing methyl methacrylate through the distillation column to remove water by azeotropic distillation. After 1 hour from the beginning of the reflux of methyl methacrylate, the water content in the reactor became 630 ppm. Then, 3 kg of anhydrous lithium hydroxide was charged into the reactor to carry out the reaction. While removing methanol by-produced by the reaction from the reaction system by distillation, the reaction was continued until almost no methanol was distilled (about 7 hours), followed by removal of unreacted methyl methacrylate under reduced pressure. After cooling, the mixture was filtered under pressure (2 kg/cm2) using a filter paper (pore size 0.1 mm, area 5 m2) placing thereon 10 kg of diatomaceous earth to yield 990 kg of tricyclo[5.2.1.02,6 ]deca-8-yl methacrylate with the filtrating time of 2 hours.

reactant | deca-8-yl alcohol | CCCCCCCC(CC)O | C10H22O
reactant | methyl methacrylate | 15 kmole, 1500 kg | C(C(=C)C)(=O)OC | C5H8O2
reactant | water | O | H2O
reactant | hydroquinone monomethyl ether | 550 g | COC1=CC=C(O)C=C1 | C7H8O2
solvent | methanol | CO | CH4O
product | deca-8-yl methacrylate | C(C(=C)C)(=O)OC(CCCCCCC)CC | C14H26O2
